US06881733B1
1-tert-butoxycarbonyl-3,3-dimethyl-4-trifluoromethanesulfonyloxy-1,2,3,6-tetrahydropyridine
A solution of 13.25 mL (26.5 mMol) lithium diisopropylamide (2M in tetrahydrofuran/heptane) was cooled to −78° C. A solution of 5.24 gm (23.05 mMol) of 1-(tert-butoxycarbonyl)-3,3-dimethyl-4-oxopiperidine in 40 mL tetrahydrofuran was added dropwise over 40 minutes, maintaining the reaction temperature below −71° C. After the addition was complete, the reaction mixture was stirred at −78° C. for 90 minutes, and then a solution of 8.70 gm (24.35 mMol) N-phenyltrifluoromethanesulfonimide in 40 mL tetrahydrofuran was added over 10 minutes. The solution was allowed to warm to 0° C. and was stirred for 90 minutes. The reaction mixture was concentrated under reduced pressure and the residue was subjected to neutral alumina chromatography, eluting with 5:1 hexanes:ethyl acetate. The solvent was removed under reduced pressure and the residue was subjected to silica gel chromatography, eluting with 4:1 hexanes:ethyl acetate. Fractions containing product were combined and concentrated under reduced pressure to provide 1.72 gm (75.2%) of the title compound as a clear, colorless oil.

reactant | lithium diisopropylamide | 26.5 mMol, 2M, 13.25 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-(tert-butoxycarbonyl)-3,3-dimethyl-4-oxopiperidine | 23.05 mMol, 5.24 gm | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)(C)C | C12H21NO3
reactant | N-phenyltrifluoromethanesulfonimide | 24.35 mMol, 8.70 gm | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 1-tert-butoxycarbonyl-3,3-dimethyl-4-trifluoromethanesulfonyloxy-1,2,3,6-tetrahydropyridine | 1.72 gm, 75.2% | C(C)(C)(C)OC(=O)N1CC(C(=CC1)OS(=O)(=O)C(F)(F)F)(C)C | C13H20F3NO5S
